US08377942B2
Trifluoroacetic acid anhydride (0.18 ml) is added to a solution of 4-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-pyrazole-1-carboxylic acid tert-butyl ester (135 mg) in dichloromethane (1 ml). After 1 hour at room temperature an aqueous solution of sodium hydroxide (30%) is added. The aqueous phase is extracted with dichloromethane and the combined organic phases are dried over MgSO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 5-(3,5-dichloro-phenyl)-3-[4-(1H-pyrazol-4-yl)-naphthalen-1-yl]-5-trifluoromethyl-4,5-dihydro-isoxazole as a colorless solid: m.p. 117-120° C. (compound 1.17, table 1).

reactant | Trifluoroacetic acid anhydride | 0.18 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-naphthalen-1-yl}-pyrazole-1-carboxylic acid tert-butyl ester | 135 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)C1=CC=C(C2=CC=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C28H22Cl2F3N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-(3,5-dichloro-phenyl)-3-[4-(1H-pyrazol-4-yl)-naphthalen-1-yl]-5-trifluoromethyl-4,5-dihydro-isoxazole | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C=1C=NNC1)C(F)(F)F | C23H14Cl2F3N3O
